US08030334B2
To a solution of 1-{[5-(1-methyl-1H-indol-2-yl)-pyridin-3-ylamino]-methyl}-cyclobutanecarboxylic acid ethyl ester (0.107 g, 0.288 mmol) in THF (2 mL) and methanol (1 mL) is added aqueous lithium hydroxide (1M, 0.58 mL, 0.58 mmol) and the solution is stirred overnight. The product is isolated by RP HPLC on an Xbridge C18 eluting with an acetonitrile in 0.1% aqueous NH4OH gradient to give 1-{[5-(1-methyl-1H-indol-2-yl)-pyridin-3-ylamino]-methyl}-cyclobutanecarboxylic acid as a white powder. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.74-1.86 (m, 1H), 1.87-1.97 (m, 3H), 2.26-2.35 (m, 2H), 3.33 (br. s., 1H), 3.39 (s, 2H), 3.75 (s, 3H), 6.60 (s, 1H), 7.05-7.09 (m, 1H), 7.15 (m, 1H), 7.17-7.21 (m, 1H), 7.50 (d, J=8.3 Hz, 1H), 7.57 (d, J=7.7 Hz, 1H), 7.94 (d, J=1.8 Hz, 1H), 8.06 (d, J=2.7 Hz, 1H). MS (ESI) m/z 336 (M+H)+.

reactant | 1-{[5-(1-methyl-1H-indol-2-yl)-pyridin-3-ylamino]-methyl}-cyclobutanecarboxylic acid ethyl ester | 0.288 mmol, 0.107 g | C(C)OC(=O)C1(CCC1)CNC=1C=NC=C(C1)C=1N(C2=CC=CC=C2C1)C | C22H25N3O2
reactant | lithium hydroxide | 0.58 mmol, 1M, 0.58 mL | [OH-].[Li+]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | methanol | 1 mL | CO | CH4O
product | 1-{[5-(1-methyl-1H-indol-2-yl)-pyridin-3-ylamino]-methyl}-cyclobutanecarboxylic acid | CN1C(=CC2=CC=CC=C12)C=1C=C(C=NC1)NCC1(CCC1)C(=O)O | C20H21N3O2
